US06271225B1
In the same manner as in Example 1 and using ethyl 2-(2-amino-5-bromoanilino)benzo[b]thiophene-3-carboxylate, 1-methylpiperazine, anisole and titanium tetrachloride, 8-bromo-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine is obtained.

reactant | ethyl 2-(2-amino-5-bromoanilino)benzo[b]thiophene-3-carboxylate | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C(C=C1)Br | C17H15BrN2O2S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 8-bromo-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | BrC1=CC2=C(N=C(C3=C(N2)SC2=C3C=CC=C2)N2CCN(CC2)C)C=C1 | C20H19BrN4S
